US07060827B2
In like manner to N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine, 2,4-dichloro-5-fluoropyrimidine and 3-hydroxy-4-methoxylaniline were reacted to yield N2,N4-bis(3-hydroxy-4-methoxyphenyl)-5-fluoro--2,4-pyrimidinediamine. 1H NMR (CD3OD): δ 7.82 (d, 1H J=4 Hz), 7.18 (m, 2H), 6.95 (m, 2H), 6.83 (m, 2H) 3.93 (s, 6H); LCMS: ret. time: 16.63 min.; purity: 97%; MS (m/e): 373 (MH+).

reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 3-hydroxy-4-methoxylaniline | OC=1C=C(N)C=CC1OC | C7H9NO2
product | N2,N4-bis(3-hydroxy-4-methoxyphenyl)-5-fluoro--2,4-pyrimidinediamine | OC=1C=C(C=CC1OC)NC1=NC=C(C(=N1)NC1=CC(=C(C=C1)OC)O)F | C18H17FN4O4
